US04154947
Preparation of 1-Amino-3-(pyrazinylmethyl)guanidine hydriodide
A solution of 3.66 g. of methyl thiocarbazimidate hydriodide and 3.42 g. of (aminomethyl)pyrazine [A. Hirschberg and P. Mattner, J. Med. Chem., 11, 911 (1961)] in 50 ml. of absolute ethanol is heated at reflux for 20 hours and then concentrated to dryness under reduced pressure to give the desired product as an orange solid.

reactant | methyl thiocarbazimidate hydriodide | I.C(NN)(SC)=N
reactant | (aminomethyl)pyrazine | NCC1=NC=CN=C1 | C5H7N3
solvent | ethanol | C(C)O | C2H6O
product | 1-Amino-3-(pyrazinylmethyl)guanidine hydriodide | I.NNC(=N)NCC1=NC=CN=C1 | InChI=1S/C6H10N6.HI/c7-6(12-8)11-4-5-3-9-1-2-10-5;/h1-3H,4,8H2,(H3,7,11,12);1H
